US07612114B2
3-Fluoro-4-(1-methylpiperidin-4-yloxy)benzaldehyde
Synthesized from 4-hydroxy-1-methylpiperidine and 3,4-difluorobenzonitrile according to an analogous synthetic method to Preparation Example 15, 3-fluoro-4-(1-methylpiperidin-4-yloxy)benzonitrile (1.1 g) was used according to an analogous synthetic method to Preparation Example 16 to provide the title compound (1.1 g).

reactant | 4-hydroxy-1-methylpiperidine | OC1CCN(CC1)C | C6H13NO
reactant | 3,4-difluorobenzonitrile | FC=1C=C(C#N)C=CC1F | C7H3F2N
reactant | 3-fluoro-4-(1-methylpiperidin-4-yloxy)benzonitrile | 1.1 g | FC=1C=C(C#N)C=CC1OC1CCN(CC1)C | C13H15FN2O
product | 3-Fluoro-4-(1-methylpiperidin-4-yloxy)benzaldehyde | 1.1 g | FC=1C=C(C=O)C=CC1OC1CCN(CC1)C | C13H16FNO2
